US05162334
Step E: 17-Ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(o-nitrobenzenesulfonyloxy)-3"-allyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-hydroxy-3"-allyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (65 mg) in dry methylene chloride (1 ml) was added an excess of diisopropylethyl amine (29 μl) and o-nitrobenzenesulfonyl chloride (31 mg) followed by addition of 4-dimethylaminopyridine (20 mg). The mixture was stirred at room temperature for 4 hours at which time it was diluted with ethyl acetate, extracted from saturated sodium bicarbonate solution and washed with brine. The combined organics were dried over magnesium sulfate and the concentrate purified by flash chromatography on silica gel (ethyl acetate:hexane (1:2)+1% methanol to give the title compound (68 mg).

reactant | 17-ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-hydroxy-3"-allyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 65 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OCC=C)C)C)O[Si](C)(C)C(C)(C)C)=O | C51H85NO12Si
reactant | diisopropylethyl amine | 29 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | o-nitrobenzenesulfonyl chloride | 31 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 17-Ethyl-1-hydroxy-14-(tert-butyldimethylsiloxy)-12-[2'-(4"-(o-nitrobenzenesulfonyloxy)-3"-allyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 68 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OS(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-])OCC=C)C)C)O[Si](C)(C)C(C)(C)C)=O | C57H88N2O16SSi
